US07851625B2
Condensation of the indole carboxylic acid with cyclopentanone in the presence of aqueous sodium hydroxide gave the 3-cyclopentenyl indole carboxylic acid, which was subjected to hydrogenation in the presence of catalytic amount of palladium on carbon to afford the corresponding cyclopentyl carboxylic acid in 80% overall yield. Double methylation of the carboxylic acid and the nitrogen with methyl carbonate in NMP at 130° C. provided the N-methyl indole carboxylate methyl ester in 90% yield. Bromination of the indole carboxylate with bromine in acetonitrile furnished the 2-bromo-3-cyclopentyl indole carboxylate in 90% yield.

reactant | indole carboxylic acid | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-cyclopentenyl indole carboxylic acid | C1(=CCCC1)C1=C(NC2=CC=CC=C12)C(=O)O | C14H13NO2
